US07560558B2
Compound 427: 3-(6,7-Dimethoxy-quinolin-4-yloxy)-[1,8]naphthyridine
3-Hydroxy-[1,8]naphthyridine-2-carboxylic acid (15 mg), 4-chloro-6,7-dimethoxyquinoline (47 mg), and 4-dimethylaminopyridine (26 mg) were suspended in o-dichlorobenzene (1 ml), and the suspension was stirred at 140° C. for 24 hr. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was then washed with water and saturated brine and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using chloroform-methanol to give the title compound (6 mg, yield 26%).

reactant | 3-Hydroxy-[1,8]naphthyridine-2-carboxylic acid | 15 mg | OC=1C(=NC2=NC=CC=C2C1)C(=O)O | C9H6N2O3
reactant | 4-chloro-6,7-dimethoxyquinoline | 47 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 26 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 1 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-(6,7-Dimethoxy-quinolin-4-yloxy)-[1,8]naphthyridine | 6 mg, yield 26% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=NC2=NC=CC=C2C1 | C19H15N3O3
